US05576321
Preparation of (2S)-(+)-3-[4-(6-methyl-3-indolyl)-piperidin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 1 using (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.145 g, 0.767 mmol) and 6-methyl-3-(piperidin-4-yl)-1H-indole (0.150 g, 0.697 mmol) using ethanol as reaction solvent. Yield 0.140 g (49%) as a tan foam. FDMS m/e=403 (M+ of free base). α[D]589 =+3.8 (c=0.98, dimethylsulfoxide).

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 0.767 mmol, 0.145 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 6-methyl-3-(piperidin-4-yl)-1H-indole | 0.697 mmol, 0.150 g | CC1=CC=C2C(=CNC2=C1)C1CCNCC1 | C14H18N2
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (2S)-(+)-3-[4-(6-methyl-3-indolyl)-piperidin-1-yl]-1-(4-indolyloxy)-2-propanol | CC1=CC=C2C(=CNC2=C1)C1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C25H29N3O2
